US06521643B1
To a solution of ethylamine in ethanol (20 w/w %, 5 ml) was added N-(4-(4-methylpyridin-2-yl)pyrimidin-2-yl)cyanamide (150 mg). The mixture was heated in a steel autoclave at 120° C. for 4.5 hours. After cooling, the solvent was evaporated under reduced pressure. To the residue was added 2-propanol, and the resultant precipitate was collected by filtration and dried under reduced pressure to give N-ethyl-N′-(4-(4-methylpyridin-2-yl)pyrimidin-2-yl)guanidine (50 mg).

reactant | ethylamine | C(C)N | C2H7N
reactant | N-(4-(4-methylpyridin-2-yl)pyrimidin-2-yl)cyanamide | 150 mg | CC1=CC(=NC=C1)C1=NC(=NC=C1)NC#N | C11H9N5
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-ethyl-N′-(4-(4-methylpyridin-2-yl)pyrimidin-2-yl)guanidine | 50 mg | C(C)NC(=N)NC1=NC=CC(=N1)C1=NC=CC(=C1)C | C13H16N6
